US07968583B2
Preparation of 3-pyrrolidin-1-ylmethyl-benzoic acid hydochloride
A solution of 3-pyrrolidin-1-ylmethyl-benzoic acid methyl ester (800 mg, 3.6 mmol) in aqueous 25% hydrochloric acid (15 mL) was stirred at 90° C. for 4 hours. The solvent was evaporated affording the title compound as brown oil (quantitative) that was used as such for the next step.

reactant | 3-pyrrolidin-1-ylmethyl-benzoic acid methyl ester | 3.6 mmol, 800 mg | COC(C1=CC(=CC=C1)CN1CCCC1)=O | C13H17NO2
reactant | hydrochloric acid | 15 mL | Cl | ClH
product | 3-pyrrolidin-1-ylmethyl-benzoic acid hydochloride | Cl.N1(CCCC1)CC=1C=C(C(=O)O)C=CC1 | InChI=1S/C12H15NO2.ClH/c14-12(15)11-5-3-4-10(8-11)9-13-6-1-2-7-13;/h3-5,8H,1-2,6-7,9H2,(H,14,15);1H
